US07232832B2
d) 3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-sulfonic acid {3-[4-(6-methoxy-[1,5]naphthyridin-4-yl)-[1,2,3]triazol-1-yl]-propyl}amide
To a suspension of 2-{3-[4-(6-Methoxy-[1,5]naphthyridin-4-yl)-[1,2,3]triazol-1-yl]-propyl)-isoindole-1,3-dione (180 mg, 0.43 mmole) in ethanol (3 mL) was added hydrazine hydrate (23 μL, 0.48 mmole) and the mixture was brought to reflux for 3 hours. After cooling 0.1 mL of 6N aqueous HCl was added to dissolve the product. The mixture was filtered and the filtrate was concentrated to dryness to afford the crude amine hydrochloride (85 mg). This material was suspended in chloroform (3 mL) and treated with triethylamine (0.18 mL, 1.3 mmole), followed by 3-oxo-3,4-dihydro-2H benzo[1,4]thiazine-6-sulfonyl chloride (100 mg, 0.4 mmole). After stirring 1 hour the mixture was diluted with chloroform, washed with saturated aqueous NaHCO3, dried (MgSO4), and chromatographed on silica (0–5% methanovchloroform) to provide the title compound as an off-white solid (60 mg, 27%). 1H NMR (400 MHz, DMSO-d6): 10.83 (br s, 1 H); 9.05 (s, 1 H); 8.84 (d, 1H); 8.37 (d, 1H); 8.29 (d, 1H); 7.85 (m, 1H); 7.46 (d, 1H); 7.24–7.42 (m, 3H); 4.60 (m, 2H); 4.17 (s, 3H); 3.53 (s, 2H); 2.80 (m, 2H); 2.14 (m, 2H). LC-MS (ES) m/e 512 (M+H)+.

reactant | 2-{3-[4-(6-Methoxy-[1,5]naphthyridin-4-yl)-[1,2,3]triazol-1-yl]-propyl)-isoindole-1,3-dione | 0.43 mmole, 180 mg | COC=1N=C2C(=CC=NC2=CC1)C=1N=NN(C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C22H18N6O3
reactant | hydrazine hydrate | 0.48 mmole, 23 μL | O.NN
reactant | HCl | 6N, 0.1 mL | Cl | ClH
reactant | triethylamine | 1.3 mmole, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-3,4-dihydro-2H benzo[1,4]thiazine-6-sulfonyl chloride | 0.4 mmole, 100 mg | O=C1CSC2=C(N1)C=C(C=C2)S(=O)(=O)Cl | C8H6ClNO3S2
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-sulfonic acid {3-[4-(6-methoxy-[1,5]naphthyridin-4-yl)-[1,2,3]triazol-1-yl]-propyl}amide | 60 mg, 27% | COC=1N=C2C(=CC=NC2=CC1)C=1N=NN(C1)CCCNS(=O)(=O)C=1C=CC2=C(NC(CS2)=O)C1 | C22H21N7O4S2
